US04594343
α,α-Diphenyl-1-(phenylmethyl)-3-pyrrolidineacetonitrile
The title compound was prepared from 1-(phenylmethyl)-3-pyrrolidinol, methanesulfonylchloride, triethylamine and sodium diphenylacetonitrile by the procedure of U.S. Pat. No. 3,192,210, b.p. 215-218/0.01 mm.

reactant | 1-(phenylmethyl)-3-pyrrolidinol | C1(=CC=CC=C1)CN1CC(CC1)O | C11H15NO
reactant | methanesulfonylchloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium diphenylacetonitrile | C1(=CC=CC=C1)C(C#N)C1=CC=CC=C1.[Na]
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | α,α-Diphenyl-1-(phenylmethyl)-3-pyrrolidineacetonitrile | C1(=CC=CC=C1)C(C#N)(C1CN(CC1)CC1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2
